* CL21A106KOQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-09-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 10uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 16Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 5.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A106KOQNNN_Precise_DC5.5V_25degC 1 2
C1 1 3 4.30232E-6
C2 3 4 1.28464E-4
C3 4 5 2.07895E-4
C4 5 6 2.12003E-4
C5 6 7 2.23759E-4
C6 7 8 2.03153E-4
C7 8 9 1.08845E-4
C8 9 10 1.0E-10
C16 17 18 1.21724E-4
C17 18 19 3.02648E-4
C18 19 20 1.72924E-4
C19 20 21 3.87513E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 1.59651E-5
C24 25 26 3.25548E-6
C25 26 27 2.53303E-4
C26 27 28 5.01705E-11
C27 28 2 5.25059E-12
L10 11 12 8.44784E-11
L11 12 13 3.31667E-10
L12 13 14 4.69601E-11
L13 14 15 1.0E-10
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 9.07822E-10
L17 18 19 7.26577E-11
L18 19 20 7.06073E-11
L19 20 21 9.58546E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 4.87221E-11
L24 25 26 1.13647E-10
L25 26 27 1.0E-10
L26 27 28 2.78081E-11
L27 28 2 5.89399E-11
R1 1 3 1.0E8
R2 3 4 39.12178
R3 4 5 3.47739
R4 5 6 0.68648
R5 6 7 0.13401
R6 7 8 0.02579
R7 8 9 0.00726
R8 9 10 1.0E-6
R9 10 11 0.00146
R11 12 13 0.03087
R12 13 14 0.09066
R13 14 15 1.0E-6
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00142
R17 18 19 0.00255
R18 19 20 0.00793
R19 20 21 0.00139
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00633
R24 25 26 0.00739
R25 26 27 1.0E-6
R26 27 28 1.42798
R27 28 2 2.58670
.ENDS CL21A106KOQNNN_Precise_DC5.5V_25degC